US05030628
The reagent used in this case is the Vilsmaier reagent and it is prepared by adding 200 μl of thionyl chloride (SOCl2) to 1 ml of dry dimethyl formamide (DMF) at a temperature of 0° to 4° C. and whilst stirring for 5 min. This gives a SOCl2 /DMF reagent. 53 μl of this reagent are then added dropwise to 0.11 mmole of compound 4a dissolved in the minimum of dry DMF. The mixture is then stirred for 20 min. at ambient temperature and vacuum evaporation then takes place of the thionyl chloride. This is followed by the elimination of the DMF with the vane pump. The residue obtained is purified on a silica gel preparative layer using an ether:pentane mixture with a volume ratio of 1:1.5. This gives 13 mg of compound 5a in the form of an oil corresponding to a 51% yield.

reactant | thionyl chloride | 200 μl | S(=O)(Cl)Cl | Cl2OS
reactant | dimethyl formamide | 1 ml | CN(C=O)C | C3H7NO
product | SOCl2 DMF | 51% yield | O=S(Cl)Cl.CN(C=O)C | InChI=1S/C3H7NO.Cl2OS/c1-4(2)3-5;1-4(2)3/h3H,1-2H3;
